US05109000
2-[3-Acetylmercapto-6-methyl-4-[[[1-(S)-[(methylamino)carbonyl]-2-(4-methoxyphenyl)ethyl]amino]carbonyl]heptanoylamino]ethanoic acid (E14)
A solution of 2-[3-acetylmercapto-6-methyl-4-[[[1-(S)-[(methylamino)carbonyl]-2-(4-methoxyphenyl)ethyl]amino]carbonyl]heptanoylamino]ethanoic acid, t-butyl ester (E12, Isomer A; 60 mg, 0.11 mmol) in trifluoroacetic acid (1.5 ml) and water (0.05 ml) was stirred in an ice bath for 1 h, then at room temperature for 2 h. The solvent was evaporated in vacuo and the residue was azeotroped dry with toluene to leave the title compound as a single isomer (Isomer A), mp 188°-192° C.

reactant | 2-[3-acetylmercapto-6-methyl-4-[[[1-(S)-[(methylamino)carbonyl]-2-(4-methoxyphenyl)ethyl]amino]carbonyl]heptanoylamino]ethanoic acid, t-butyl ester | 0.11 mmol, 60 mg | C(C)(=O)SC(CC(=O)NCC(=O)OC(C)(C)C)C(CC(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC)C(=O)NC | C28H43N3O7S
solvent | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 0.05 ml | O | H2O
product | 2-[3-Acetylmercapto-6-methyl-4-[[[1-(S)-[(methylamino)carbonyl]-2-(4-methoxyphenyl)ethyl]amino]carbonyl]heptanoylamino]ethanoic acid | C(C)(=O)SC(CC(=O)NCC(=O)O)C(CC(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC)C(=O)NC | C24H35N3O7S
